US04526891
2-(6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-yl)ethanol methanesulfonate
A stirred chilled (-5° C.) solution of 2-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)ethanol (5.08 g, 0.02 mol) and anhydrous pyridine (28 ml) was treated over 60 seconds with methanesulfonyl chloride (2.74 g, 0.024 mol). A mild exotherm was noted and a precipitate separated with continued cooling and stirring for 15 minutes after addition of the methanesulfonyl chloride was completed. Additional methanesulfonyl chloride (1.37 g, 0.012 mol) was added over 30 seconds and after stirring for 15 minutes the cooling bath was removed. After stirring 2 hours at ambient temperature, the mixture was decanted into 400 ml of ice cold water. The aqueous phase was decanted and the residual oil was stirred with water (300 ml). The water was decanted and the residual semisolid was triturated with ether. The resultant solid was collected, washed with ether and dried in vacuo to afford 4.92 g of crude material. Recrystallization from acetonitrile (15 ml) afforded 2.60 g (39.1 %) of crystals, m.p. 108°-110° C.

reactant | 2-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)ethanol | 0.02 mol, 5.08 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCO | C16H14O3
reactant | methanesulfonyl chloride | 0.024 mol, 2.74 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.012 mol, 1.37 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 28 ml | N1=CC=CC=C1 | C5H5N
product | 2-(6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-yl)ethanol methanesulfonate | 2.60 g, 39.1 % | CS(=O)(=O)OCCC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C17H16O5S
